US07001897B2
To a solution of (2S)-3-(t-butyldiphenylsilyloxy)-2-[(3-hydroxyazetidine-1-carbothioyl)-amino]propionic acid methyl ester (21.1 g, 44.6 mmol) (obtained as described in Reference Example 70(2)) in pyridine (630 ml) were added a solution of benzoic anhydride (30.0 g, 133 mmol) and 4-dimethylaminopyridine (545 mg, 4.46 mmol) in an ice bath and the mixture was stirred at room temperature for 2 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution; The organic layer was washed with 0.5 N hydrochloric aid, saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (4:1) as the eluant to afford (2S)-2-{[3-(benzoyloxy)-azetidine-1-carbothioyl]amino}-3-(t-butyldiphenylsilyloxy)propionic acid methyl ester (23.3 g, yield 91%) as a pale yellow solid.

reactant | (2S)-3-(t-butyldiphenylsilyloxy)-2-[(3-hydroxyazetidine-1-carbothioyl)-amino]propionic acid methyl ester | 44.6 mmol, 21.1 g | COC([C@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=S)N1CC(C1)O)=O | C24H32N2O4SSi
reactant | benzoic anhydride | 133 mmol, 30.0 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | 630 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 4.46 mmol, 545 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S)-2-{[3-(benzoyloxy)-azetidine-1-carbothioyl]amino}-3-(t-butyldiphenylsilyloxy)propionic acid methyl ester | 23.3 g, yield 91% | COC([C@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=S)N1CC(C1)OC(C1=CC=CC=C1)=O)=O | C31H36N2O5SSi
